US08134001B2
To a solution of 3-chloro-2-fluoro-6-methoxy-benzaldehyde (10 g, 53.2 mmol,) in dichloromethane (200 mL) at −78° C. was added a dichloromethane solution (1 M) of BBr3 (159 mL, 159 mmol) dropwise. The mixture was gradually warmed to room temperature and stirred for 1 h, then quenched with water. The mixture was extracted with dichloromethane three times. The organic layer were combined, washed with brine, dried over MgSO4, concentrated to give a residue. The reside was triturated with dichloromethane and hexanes to afford 3-chloro-2-fluoro-6-hydroxy-benzaldehyde as a brown solid (Yield: 2.07 g, 22%)

reactant | 3-chloro-2-fluoro-6-methoxy-benzaldehyde | 53.2 mmol, 10 g | ClC=1C(=C(C=O)C(=CC1)OC)F | C8H6ClFO2
reactant | BBr3 | 159 mmol, 159 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 M | ClCCl | CH2Cl2
product | 3-chloro-2-fluoro-6-hydroxy-benzaldehyde | Yield: 2.07 g, 22% | ClC=1C(=C(C=O)C(=CC1)O)F | C7H4ClFO2
